US06660744B1
A solution of 3-propylidene-1-cyclobutanol (0.344 g, 0.00307 mol) in pyridine (5 mL) was cooled to 0° C. Methanesulfonyl chloride (0.422 g, 0.00369 mol) was added dropwise, keeping the temperature below 2° C. The mixture was stirred for two hours, and then poured into ice water (15 mL) and extracted with ethyl ether (2×10 mL). The combined organic layers were washed with water (3×10 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo to give 3-propylidenecyclobutyl methanesulfonate (0.492 g, 0.00221 mol) as a yellow oil.

reactant | 3-propylidene-1-cyclobutanol | 0.00307 mol, 0.344 g | C(CC)=C1CC(C1)O | C7H12O
reactant | Methanesulfonyl chloride | 0.00369 mol, 0.422 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-propylidenecyclobutyl methanesulfonate | 0.00221 mol, 0.492 g | CS(=O)(=O)OC1CC(C1)=CCC | C8H14O3S
